Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Keppra
 
Attending: ___.
 
Chief Complaint:
Seizures
 
Major Surgical or Invasive Procedure:
n/a 

 
History of Present Illness:
___ is a ___ female with a PMHx of seizures
(followed by Dr. ___ at ___ Neurology in ___ and
Crohn's disease on Humira s/p colostomy who presents with
seizure-like episodes that have been "too many to count" per the
patient and her husband (at least 50). 

She woke up at 6:30am and she was shaking all four limbs with
head bobbing for ___ seconds. Subsequently her responses were
"slower," although she was fully oriented and able to follow
commands. These episodes of limb shaking and head bobbing
occurred every ___ minutes, and she had "too many to count." Had
shaking while walking but did not fall. All episodes the same in
semiology. Called on call physician at ___ who told
her to go to ED. 

Went to ___. At outside hospital patient had
witnessed episodes of few seconds of deviated gaze (unclear 
which
direction) with blinking and upper extremity jerking (unclear if
bilateral), and she was treated with 1 mg of Ativan. Her 
Dilantin
level was 3.4, and she was given 1 g of Dilantin. Patient
transferred to ___ because ___ was full. En route, EMS reported
that she was sleepy. They checked a fingerstick, and it was 69.
She was treated oral glucose. She received 1 L IV fluid for
systolic blood pressure of 86/40 which improved to 103.

Per the patient, her episodes have continued and were occurring
during the interview (although denied by ED resident and not
witnessed by examiner). Also, her husband still feels that her
responses are slow, and she is not at her baseline. 

Of note, she had an episode 3 weeks ago which she doesn't 
recall,
which is unusual. She was in bed at bedtime and felt "not 
right."
Cannot characterize further. Then, her husband witnessed LOC 
with
four limb shaking, and the movements were "larger" than they
normally are. Per her husband, this lasted 45 minutes. She went
to ___, where her Dilantin level was low, and she 
was
given additional Dilantin. She was admitted for two days, and
during that time, they increased her Topirimate (currently on
25mg qHS, patient does not recall prior dose) and increased her
phenobarbital (64.8mg BID to 64.8mg TID). 

Also, of note, her Keppra had been discontinued due to facial
swelling prior to the episode above after two months of use. She
was put on the Keppra because she was hoping to come off the
phenobarb, which requires TID dosing. 

Per the patient, she has a diagnosis of "juvenile epilepsy" that
began at age ___. Her typical semiology is characterized by the
events she had today (head bobbing, four limb shaking, no LOC
followed by ~15 minutes of slowed responses); prior to today, 
she
had  not had these episodes since ___. The event with LOC 3
weeks ago was the first of its kind. Her husband also notes that
she has staring spells with behavioral arrest lasting seconds
that occur once a week. Per the patient, there is no associated
bowel or bladder incontinence, head version, gaze deviation
(although she reportedly had gaze deviation at OSH ED), tongue
biting, rising gastric sensation, ___, metallic or unusual
taste, or post-ictal weakness with her episodes. She is 
currently
treated with phenobarbital and topiramate as above, and she is
also on Dilantin 300mg ER daily. Other than Keppra, she has not
trialed any other AEDs. She reports having a normal EEG at ___ ___
years ago, but no events were captured at that time. She also
notes having brain imaging (not sure if CT or MRI), which was
reportedly normal at the same time. She denies any complications
during her mother's pregnancy, any perinatal complications,
febrile seizures, FHx epilepsy, or history of trauma. 

Recent medication changes include the discontinuation of Keppra
and increase of phenobarb and Topamax as above. Additionally, 3
weeks ago, she was taken of ciprofloxacin and put on cefixime.
She was also started on Vitamin D at that time. Also, gabapentin
for neuropathy was discontinued 1 month ago, but she's not sure
why. She is on antiobotics chronically for prophylaxis in the
setting of Crohn's. She has had no recent infections other than 
a
yeast infection for which she has taken Monostat for 4 days. She
denies missing any of her doses or taking the wrong dose. No
recent alcohol use or sleep deprivation. 

On neuro ROS, the patient notes a bifrontal HA today. The pt 
loss
of vision, blurred vision, diplopia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus, and hearing difficulty.
Denies difficulties producing or comprehending speech.  Denies
focal weakness, numbness, and parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills. No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation,
or abdominal pain.  No recent change in bowel or bladder habits.
No dysuria. Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Epilepsy
Crohn's Disease with severe ___ disease
Hernia 
?Neuropathy                                

Colostomy
Perianal fistula repair   
 
Social History:
___
Family History:
No FHx of epilepsy or neurologic problems. 
 
Physical Exam:
=== INITIAL EXAM ===
Physical Exam:
Vitals: T: 98.2 P: 86 R: 16  BP: 102/62 SaO2: 100RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history with
some difficulty related to recent medication changes (i.e.,
whether increased or decreased and prior and current doses).
Inattentive, is unable to name ___ backward (stops at ___
but is able to ___ backward. Language is fluent with intact
comprehension. She has difficulty repeating complicated phrases
(e.g., made ___ errors on"If I were here, she would go there,"
and "The cat always hid under the couch when the dog was in the
room." Was able to say, "Today is a lovely day in ___ 
without
errors. Normal prosody. There were no paraphasic errors. Pt was
able to name both high and low frequency objects.  Speech was 
not
dysarthric. Able to follow both midline and appendicular 
commands
but not cross-body commands. Pt was able to register 3 objects
and recall ___ at 5 minutes ___ with categorical cues). There
was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI with
left-beating nystagmus in upgaze and left and right lateral 
gaze.
Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. No adventitious movements, such as tremor, noted.
No asterixis noted.  
[___]  
 [C5] [C5] [C7] [C6] [C7]  [T1][L2] [L3] [L5] [L4] [S1][L5]  
 L 5   5    5    5    5     5   5    5    5    5    5   5 
 R 5   5    5    5    5     5   5    5    5    5    5   5
Others tested: FFl, EDB

-Sensory: No deficits to light touch, cold sensation,
proprioception throughout. No extinction to DSS.

-DTRs: ___ brisk. Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
L>R dysmetria on F2N bilaterally;. No dysmetria on H2S.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Difficulty with tandem gait and with walking on sides of
feet. +Romberg.

=== DISCHARGE EXAM ===
Essentially unchanged except negative Romberg. 
 
Pertinent Results:
=== LABS === 
___ 06:25PM BLOOD WBC-13.9* RBC-3.32* Hgb-9.6* Hct-32.3* 
MCV-97 MCH-28.9 MCHC-29.7* RDW-13.8 RDWSD-49.1* Plt ___
___ 06:03AM BLOOD WBC-8.3 RBC-3.24* Hgb-9.4* Hct-31.8* 
MCV-98 MCH-29.0 MCHC-29.6* RDW-13.9 RDWSD-49.8* Plt ___
___ 06:25PM BLOOD Neuts-71.8* ___ Monos-5.8 
Eos-0.6* Baso-0.2 Im ___ AbsNeut-9.96* AbsLymp-2.96 
AbsMono-0.80 AbsEos-0.09 AbsBaso-0.03
___ 06:25PM BLOOD Glucose-110* UreaN-4* Creat-0.6 Na-139 
K-4.5 Cl-105 HCO3-23 AnGap-16
___ 05:10PM BLOOD Glucose-95 UreaN-5* Creat-0.7 Na-141 
K-3.5 Cl-107 HCO3-24 AnGap-14
___ 06:03AM BLOOD ALT-16 AST-23 LD(LDH)-198 AlkPhos-135* 
TotBili-<0.2
___ 05:10PM BLOOD cTropnT-<0.01
___ 06:25PM BLOOD cTropnT-<0.01
___ 06:03AM BLOOD Albumin-3.1* Calcium-8.8 Phos-4.5 Mg-2.1
___ 06:25PM BLOOD Phenyto-13.3
___ 08:55AM BLOOD Phenyto-9.1*
___ 06:03AM BLOOD Phenoba-41.9* Phenyto-8.7*
___ 05:47AM BLOOD Phenyto-7.2*
___ 06:25PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-11 
Bnzodzp-NEG Barbitr-POS* Tricycl-NEG

 
Brief Hospital Course:
Ms. ___ is a ___ F with a history of seizures (on 
phenobarbitol, phenytoin and topiramate), and Crohn's disease on 
Humira s/p colostomy and chronic antibiotics for severe 
___ disease, who presents with increased frequency of 
seizure-like episodes. Initial EEG found runs of rhythmic 
activity and had subtherapeutic levels, so she was given a load 
of fosphenytoin. Her exam was unchanged. Her EEG rhythm was 
reviewed to be possibly due to an accentuated alpha rhythm 
(though final reports are still pending). Triggers for the 
recent increase in activity are likely related to recent 
down-titration of topiramate (which was taken from 50mg BID to 
25mg QHS), as well as excessive use of antibiotics. Per her 
outpatient GI team, she was taking antibiotics for her ___ 
disease. On admission, she was taking amoxicillin/clavulanate as 
well as cefixime BID, however she was no longer supposed to be 
taking the amoxicillin once her insurance approved the cefixime. 
In addition to this she was taking double the prescribed dose of 
cefixime (which can lower seizure threshold). Other likel;y 
triggers include subtherapeutic Dilantin, infection (had 
neutrophilic leukocytosis which could suggest bacterial 
infection although UA and CXR normal and afebrile), hypoglycemia 
___ ___ per EMS), as well as patient-reported yeast infection. 
We increased her topiramate to 50mg BID, increased her home 
phenytoin from 300 QHS to 200 BID, discontinued amoxicillin and 
reduced cefixime to once daily, and prescribed a 7 day course of 
topical vaginal miconazole. Her phenobarbital was also 
consolidated form a TID dose into a single larger daily dose of  
194.4mg QPM. She is to follow-up with ___ Neurology in 
___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Phenytoin Sodium Extended 300 mg PO DAILY 
2. PHENObarbital 64.8 mg PO TID 
3. Topiramate (Topamax) 25 mg PO QHS 
4. ceFIXime 400mg QD oral 1X/WEEK 
5. Amoxicillin 875 mg PO Q12H 
6. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Humira (adalimumab) 40 mg/0.8 mL subcutaneous 1X/WEEK (___)  
2.  Miconazole Nitrate Vag Cream 2% 1 Appl VG QHS Duration: 7 
Days  
3.  ceFIXime 400 mg oral DAILY  
4.  PHENObarbital 194.4 mg PO QPM 
RX *phenobarbital 64.8 mg 3 tablet(s) by mouth once a day Disp 
#*90 Tablet Refills:*0 
5.  Phenytoin Sodium Extended 200 mg PO BID 
RX *phenytoin sodium extended 200 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0 
6.  Topiramate (Topamax) 50 mg PO BID 
RX *topiramate 50 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
   ___ were hospitalized at ___ following numerous events 
concerning for seizures.  The cause of your breakthrough events 
were likely due to multiple causes including recent 
discontinuation of your topiramate, a yeast infection and 
concern for incorrect dosing of chronic antibiotics (which on 
rare occasions may increase risk of seizures).
   ___ were monitored on EEG.  Your yeast infection was treated. 
 Several changes were made to your seizure medicines to better 
control your events.  Your topirmate was increased 50mg twice 
daily.  Your phenobarbital was consolidated to single daily 
dosing and your phenytoin was increased to 200mg BID.
   While initially there was concern for further seizures on 
your EEG, but this was later felt to be a normal variant (not a 
seizure).  After discussion with ___ and your outpatient 
neurology office ___ were felt to be safe for 
discharge.

Your ___ Care team wants ___ to know it was a pleasure taking 
 
Followup Instructions:
___